US03937824
Preparation of 1-Chloro-2-(N-β-chloroethylcarbamoyloxy)-2-hexyloxyiminoethane
N-Hexyloxychloroacetamide (19 grams; 0.1 mole), benzene (100 ml) and dibutyltin dilaurate (1 drop) are charged into a glass reaction flask equipped with a mechanical stirrer, thermometer and reflux condenser. β-Chloroethylisocyanate (12.6 grams; 0.12 mole) dissolved in benzene (25 ml) is incrementally added to the reaction mixture, with stirring, at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 3 hours. After this time the reaction mixture is distilled to remove benzene and unreacted starting material thereby yielding the desired product 1-chloro-2-(N-β-chloroethylcarbamoyloxy)-2-hexyloxyiminoethane.

reactant | N-Hexyloxychloroacetamide | 0.1 mole, 19 grams | C(CCCCC)ONC(CCl)=O | C8H16ClNO2
reactant | β-Chloroethylisocyanate | 0.12 mole, 12.6 grams | ClCCN=C=O | C3H4ClNO
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N-β-chloroethylcarbamoyloxy)-2-hexyloxyiminoethane | ClCC(=NOCCCCCC)OC(NCCCl)=O | C11H20Cl2N2O3
